US05864039
To a solution of ethyl 1-benzyl-3-oxo-4-piperidinecarboxylate (21 g) in ethanol (20 ml) was added sodium borohydride (9.1 g) under ice-cooling, and the resulting mixture was stirred at room temperature for 9 hr. Water was added to the reaction mixture, and the mixture was extracted with chloroform. The organic layer was washed with brine and dried. The solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography to give 10.55 g of 1-benzyl-3-hydroxy-4-hydroxymethylpiperidine.

reactant | ethyl 1-benzyl-3-oxo-4-piperidinecarboxylate | 21 g | C(C1=CC=CC=C1)N1CC(C(CC1)C(=O)OCC)=O | C15H19NO3
reactant | sodium borohydride | 9.1 g | [BH4-].[Na+]
reactant | Water | O | H2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 1-benzyl-3-hydroxy-4-hydroxymethylpiperidine | 10.55 g | C(C1=CC=CC=C1)N1CC(C(CC1)CO)O | C13H19NO2
